US08669234B2
2-{2-[4-(6-{2-[5-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-1H-imidazol-4-yl}-naphthalen-2-yl)-phenyl]-2-oxo-ethylcarbamoyl}-thiazolidine-3-carboxylic acid tert-butyl ester
{1-[6-(4-{6-[4-(2-tert-Butoxycarbonylamino-acetyl)-phenyl]-naphthalen-2-yl}-1H-imidazol-2-yl)-5-aza-spiro[2.4]heptane-5-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (395.0 mg, 0.581 mmol) was dissolved in DCM (4 mL) and HCl in dioxane (4M, 4 mL) was added and stirring at room temperature was continued. After 60 minutes, all volatiles were removed in vacuo. The crude material was used in the next step without further purification. The crude material was dissolved in DMF (2.0 mL) and DIEA (110.8 mg, 0.860 mmol) was added. A solution of N-Boc (S) thiazolidine-2-carboxylic acid (100.0 mg, 0.430 mmol), HATU (163.0 mg, 0.430 mmol) and DIEA (55.4 mg, 0.430 mmol) in DMF (1 mL) was added. The reaction was stirred at room temperature. After 20 minutes, the reaction was diluted with EtOAc and was washed with brine, sodium hydroxyl solution (1M), brine, and was dried over sodium sulfate. Filtration and removal of solvents in vacuo gave the crude material (350 mg), which was used in the next step without further purification.

reactant | {1-[6-(4-{6-[4-(2-tert-Butoxycarbonylamino-acetyl)-phenyl]-naphthalen-2-yl}-1H-imidazol-2-yl)-5-aza-spiro[2.4]heptane-5-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.581 mmol, 395.0 mg | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC=C(N1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C(CNC(=O)OC(C)(C)C)=O)=O | C39H45N5O6
reactant | HCl | Cl | ClH
reactant | DIEA | 0.860 mmol, 110.8 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-Boc (S) thiazolidine-2-carboxylic acid | 0.430 mmol, 100.0 mg | C(=O)(OC(C)(C)C)N1[C@@H](SCC1)C(=O)O | C9H15NO4S
reactant | HATU | 0.430 mmol, 163.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.430 mmol, 55.4 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 4M, 4 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-{2-[4-(6-{2-[5-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-1H-imidazol-4-yl}-naphthalen-2-yl)-phenyl]-2-oxo-ethylcarbamoyl}-thiazolidine-3-carboxylic acid tert-butyl ester | 350 mg | C(C)(C)(C)OC(=O)N1C(SCC1)C(NCC(=O)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C=1N=C(NC1)C1N(CC2(CC2)C1)C(C(C(C)C)NC(=O)OC)=O)=O | C43H50N6O7S
